US04845030
N-(2-Hydroxyethyl)-1,2,3,4-tetrahydroquinoline
N-(2-Acetamidopropyl)-1,2,3,4-tetrahydroquinoline was obtained in an analogous way by reacting 1,2,3,4-tetrahydroquinoline with 2-acetamidopropyl chloride.

reactant | 1,2,3,4-tetrahydroquinoline | N1CCCC2=CC=CC=C12 | C9H11N
reactant | 2-acetamidopropyl chloride | C(C)(=O)NC(CCl)C | C5H10ClNO
product | N-(2-Hydroxyethyl)-1,2,3,4-tetrahydroquinoline | OCCN1CCCC2=CC=CC=C12 | C11H15NO
